.title kicad schematic

.include 74lvc157_ic.sub
* u8 out plot_v1
r1 out gnd 1k
x1 net-_u4-pad2_ net-_u5-pad2_ net-_u6-pad2_ net-_u7-pad1_ unconnected-_x1-pad5_ unconnected-_x1-pad6_ unconnected-_x1-pad7_ unconnected-_x1-pad8_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ unconnected-_x1-pad14_ net-_u9-pad2_ unconnected-_x1-pad16_ 74lvc157_ic
* u9 net-_u9-pad1_ net-_u9-pad2_ adc_bridge_1
v4 net-_u9-pad1_ gnd 0
* u7 net-_u7-pad1_ out dac_bridge_1
v2 a gnd pulse(5 0 0 1n 1n 2m 4m)
v1 ab gnd pulse(0 5 0 1n 1n 5m 10m)
* u2 a plot_v1
v3 b gnd pulse(0 5 0 1n 1n 2m 4m)
* u1 ab plot_v1
* u4 ab net-_u4-pad2_ adc_bridge_1
* u3 b plot_v1
* u6 b net-_u6-pad2_ adc_bridge_1
* u5 a net-_u5-pad2_ adc_bridge_1
a1 [net-_u9-pad1_ ] [net-_u9-pad2_ ] u9
a2 [net-_u7-pad1_ ] [out ] u7
a3 [ab ] [net-_u4-pad2_ ] u4
a4 [b ] [net-_u6-pad2_ ] u6
a5 [a ] [net-_u5-pad2_ ] u5
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 500e-06 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(a)
plot v(ab)
plot v(b)
.endc
.end
