* Subcircuit 74lvc157_ic
.subckt 74lvc157_ic net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
* u3 net-_u1-pad15_ net-_u3-pad2_ d_inverter
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u4 net-_u1-pad15_ net-_u4-pad2_ d_inverter
* u6 net-_u3-pad2_ net-_u1-pad1_ net-_u10-pad1_ d_and
* u5 net-_u4-pad2_ net-_u2-pad2_ net-_u11-pad2_ d_and
* u8 net-_u1-pad3_ net-_u10-pad1_ net-_u15-pad2_ d_and
* u7 net-_u1-pad2_ net-_u11-pad2_ net-_u15-pad1_ d_and
* u9 net-_u1-pad5_ net-_u11-pad2_ net-_u17-pad1_ d_and
* u10 net-_u10-pad1_ net-_u1-pad6_ net-_u10-pad3_ d_and
* u12 net-_u1-pad10_ net-_u10-pad1_ net-_u12-pad3_ d_and
* u11 net-_u1-pad11_ net-_u11-pad2_ net-_u11-pad3_ d_and
* u14 net-_u1-pad13_ net-_u10-pad1_ net-_u14-pad3_ d_and
* u13 net-_u1-pad14_ net-_u11-pad2_ net-_u13-pad3_ d_and
* u15 net-_u15-pad1_ net-_u15-pad2_ net-_u1-pad4_ d_or
* u17 net-_u17-pad1_ net-_u10-pad3_ net-_u1-pad7_ d_or
* u18 net-_u11-pad3_ net-_u12-pad3_ net-_u1-pad9_ d_or
* u16 net-_u13-pad3_ net-_u14-pad3_ net-_u1-pad12_ d_or
a1 net-_u1-pad15_ net-_u3-pad2_ u3
a2 net-_u1-pad1_ net-_u2-pad2_ u2
a3 net-_u1-pad15_ net-_u4-pad2_ u4
a4 [net-_u3-pad2_ net-_u1-pad1_ ] net-_u10-pad1_ u6
a5 [net-_u4-pad2_ net-_u2-pad2_ ] net-_u11-pad2_ u5
a6 [net-_u1-pad3_ net-_u10-pad1_ ] net-_u15-pad2_ u8
a7 [net-_u1-pad2_ net-_u11-pad2_ ] net-_u15-pad1_ u7
a8 [net-_u1-pad5_ net-_u11-pad2_ ] net-_u17-pad1_ u9
a9 [net-_u10-pad1_ net-_u1-pad6_ ] net-_u10-pad3_ u10
a10 [net-_u1-pad10_ net-_u10-pad1_ ] net-_u12-pad3_ u12
a11 [net-_u1-pad11_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a12 [net-_u1-pad13_ net-_u10-pad1_ ] net-_u14-pad3_ u14
a13 [net-_u1-pad14_ net-_u11-pad2_ ] net-_u13-pad3_ u13
a14 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u1-pad4_ u15
a15 [net-_u17-pad1_ net-_u10-pad3_ ] net-_u1-pad7_ u17
a16 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u1-pad9_ u18
a17 [net-_u13-pad3_ net-_u14-pad3_ ] net-_u1-pad12_ u16
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u15 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u16 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74lvc157_ic